US07074817B2
Following the procedure described in Step 2 of Example 5, 6-bromo-1-[4-(tert-butyl)benzyl]-1H-indole (0.488 g, 1.43 mmol) was coupled to 4-trifluoromethoxybenzene boronic acid (0.329 g, 1.60 mmol), using tetrakis(triphenylphosphine)palladium (0.0574 g, 0.0496 mmol) and sodium carbonate (0.617 g, 5.82 mmol) in water (2.8 mL), ethanol (1.4 mL) and toluene (10 mL). Purification by flash chromatography using hexane as an eluant yielded 1-[4-(tert-butyl)benzyl]-6-[4-(trifluoromethoxy)phenyl]-1H-indole as a white solid (0.372 g, 61%), mp 100-102° C. 1HNMR (200 MHz, DMSO-d6): δ 7.8 (d, 3H, J=8.5 Hz), 7.65 (d, 1H, J=8.5 Hz), 7.55 (d, 1H, J=3.5 Hz), 7.3-7.5 (m, 5H), 7.15 (d, 2H, J=7.5 Hz), 6.5 (d, 1H, J=3.5 Hz), 5.45 (s, 2H), and 1.2 ppm (s, 9H).

reactant | 6-bromo-1-[4-(tert-butyl)benzyl]-1H-indole | 1.43 mmol, 0.488 g | BrC1=CC=C2C=CN(C2=C1)CC1=CC=C(C=C1)C(C)(C)C | C19H20BrN
reactant | 4-trifluoromethoxybenzene boronic acid | 1.60 mmol, 0.329 g | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | sodium carbonate | 5.82 mmol, 0.617 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2.8 mL | O | H2O
solvent | ethanol | 1.4 mL | C(C)O | C2H6O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 0.0496 mmol, 0.0574 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[4-(tert-butyl)benzyl]-6-[4-(trifluoromethoxy)phenyl]-1H-indole | 0.372 g, 61% | C(C)(C)(C)C1=CC=C(CN2C=CC3=CC=C(C=C23)C2=CC=C(C=C2)OC(F)(F)F)C=C1 | C26H24F3NO
